US06964965B2
A dry 50 mL round bottom flask was charged with a solution of (2S)-2-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]butan-1-ol (356 mg, 1.18 mmol) in DMF (12 mL). NaH (70.8 mg, 1.77 mmol) was added to the homogeneous solution. Effervescence was observed and the solution turned cloudy. Iodoethane (0.189 mL, 2.36 mmol) was added at once. The now yellow solution was stirred at ambient temperature for 20 minutes. The same quantities of NaH and iodoethane were added to the reaction mixture two more times in the same manner. The reaction was quenched with water and extracted twice with ethyl acetate. The organics were combined, dried with Na2SO4, filtered and concentrated to give 510 mg of a crude yellow oil. This material was purified by Biotage MPLC (90 g column, using 5% ethyl acetate in heptane) to give 193 mg (50%) of 5-bromo-N-[(1S)-1-(ethoxymethyl)propyl]-3,6-diethylpyrazin-2-amine as a yellow oil. Rf 0.16 (5% ethyl acetate in heptane).

reactant | (2S)-2-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]butan-1-ol | 1.18 mmol, 356 mg | BrC=1N=C(C(=NC1CC)N[C@H](CO)CC)CC | C12H20BrN3O
reactant | NaH | 1.77 mmol, 70.8 mg | [H-].[Na+]
reactant | Iodoethane | 2.36 mmol, 0.189 mL | ICC | C2H5I
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 5-bromo-N-[(1S)-1-(ethoxymethyl)propyl]-3,6-diethylpyrazin-2-amine | 193 mg, 50% | BrC=1N=C(C(=NC1CC)N[C@@H](CC)COCC)CC | C14H24BrN3O
